US09226922B2
A solution of 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridin-3(2H)-one (3.1 g, 16.85 mmol) and trityl chloride (4.93 g, 17.69 mmol) in DMF (50 mL) was charged with sodium hydride (60% in mineral oil, 1.011 g, 25.3 mmol) and stirred at room temperature for 1.5 h. The reaction mixture was poured into sat. aq. NaHCO3 and extracted with Et2O (×3). The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (0-50% EtOAc/DCM) to provide 6-chloro-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3(2H)-one. MS ESI calc'd. for C26H20ClN3O [M+1]+ 426. found 426.

reactant | 6-chloro-4-methyl-1H-pyrazolo[4,3-c]pyridin-3(2H)-one | 16.85 mmol, 3.1 g | ClC1=CC2=C(C(=N1)C)C(NN2)=O | C7H6ClN3O
reactant | trityl chloride | 17.69 mmol, 4.93 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | sodium hydride | 25.3 mmol, 1.011 g | [H-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 6-chloro-4-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3(2H)-one | ClC1=CC2=C(C(=N1)C)C(NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C26H20ClN3O
